US07705025B2
[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-{4-[5-(piperidine-1-carbonyl)-thiophen-2-yl]-phenyl}-methanone
The title compound is prepared in a manner substantially analogous to General Procedure A using [2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone (550 mg, 1.4 mmol) and (5-Bromo-thiophen-2-yl)-piperidin-1-yl-methanone (CAS 626242-11-3) (315 mg, 1.2 mmol) to give 260 mg (48% yield). MS (ES+) 466.2 (M+H)+

reactant | [2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone | 1.4 mmol, 550 mg | C[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H35BN2O3
reactant | (5-Bromo-thiophen-2-yl)-piperidin-1-yl-methanone | 1.2 mmol, 315 mg | BrC1=CC=C(S1)C(=O)N1CCCCC1 | C10H12BrNOS
product | [2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-{4-[5-(piperidine-1-carbonyl)-thiophen-2-yl]-phenyl}-methanone | 48% yield | C[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C=1SC(=CC1)C(=O)N1CCCCC1 | C27H35N3O2S
